US04518713
A suspension prepared from 2.25 g of 5% palladium on carbon, 400 ml of methanol, 0.2 ml of saturated HCl/methanol and 11.19 g (19.3 mmol) of 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(3-chlorophenoxy)piperidine oxalate was shaken under 50 psi hydrogen at 50° for 4 hours. The mixture was allowed to cool to room temperature and filtered, and the solvent was evaporated to provide an oil. The oil was shaken with saturated sodium carbonate, extracted with ether, dried over potassium carbonate, filtered, and the solvent evaporated to provide 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylaminoacetyl}-4-phenoxypiperidine.

reactant | HCl methanol | 0.2 ml | Cl.CO
reactant | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylaminoacetyl}-4-(3-chlorophenoxy)piperidine oxalate | 19.3 mmol, 11.19 g | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=CC(=CC=C1)Cl
reactant | hydrogen | [H][H] | H2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium on carbon | 2.25 g | [Pd] | Pd
solvent | methanol | 400 ml | CO | CH4O
product | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylaminoacetyl}-4-phenoxypiperidine | FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=CC=CC=C1 | C26H33FN2O4
